US05053430
(+)/(-)-7-Amino-2-ethylamino-1,2,3,4-tetrahydronaphthalene hydrochloride
1.6 (5.9 mmol) (+)/(-)-7-acetamido-2-ethylamino-1,2,3,4-tetrahydronaphthalene hydrochloride are heated at the reflux temperature with 40 ml 2 N HCl for 2 hours. The solution is then concentrated i. vac., 20 ml ethanol are added to the residue and the crystals are filtered off with suction, washed with ethanol and dried to constant weight in a circulating air drying cabinet.

reactant | (-)-7-acetamido-2-ethylamino-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.C(C)(=O)NC1=CC=C2CCC(CC2=C1)NCC
solvent | HCl | 2 N, 40 ml | Cl | ClH
product | (-)-7-Amino-2-ethylamino-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.NC1=CC=C2CCC(CC2=C1)NCC | InChI=1S/C12H18N2.ClH/c1-2-14-12-6-4-9-3-5-11(13)7-10(9)8-12;/h3,5,7,12,14H,2,4,6,8,13H2,1H3;1H
